US06211227B1
To a solution of 3-aminothiophenol (2.3 g, 18.7 mmol) and triethylamine (3.12 ml, 22.4 mmol) in dichloromethane (30 ml) was slowly added methyl 3-bromomethylthiophene-2-carboxylate (6.24 g, 22.4 mmol) under ice-cooling, followed by stirring for 30 minutes. After the reaction was completed, a saturated aqueous solution of sodium hydrogen carbonate was added to the reaction mixture. The organic layer was washed successively with a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained oily substance was purified by silica gel column chromatography (hexane/ethyl acetate=7/1) to give oily methyl 3-(3-aminophenylthiomethyl)thiophene-2-carboxylate (4.82 g, 92%).

reactant | 3-aminothiophenol | 18.7 mmol, 2.3 g | NC=1C=C(C=CC1)S | C6H7NS
reactant | triethylamine | 22.4 mmol, 3.12 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 3-bromomethylthiophene-2-carboxylate | 22.4 mmol, 6.24 g | BrCC1=C(SC=C1)C(=O)OC | C7H7BrO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methyl 3-(3-aminophenylthiomethyl)thiophene-2-carboxylate | 4.82 g, 92% | NC=1C=C(C=CC1)SCC1=C(SC=C1)C(=O)OC | C13H13NO2S2
